US09023844B2
To a stirred solution of 1-{[3-(4-fluorophenyl)-1H-pyrazol-5-yl]oxy}acetone (0.25 g, 1.0 mmol) in toluene, equipped with dean stark apparatus, acetic acid (2 ml) and p-TsOH (25 mg, cat.) was charged at RT and the reaction mass was refluxed at 130° C. for 16 h. After completion, the reaction was diluted with EtOAc (50 ml) and washed with brine. The organic layer dried over sodium sulphate and concentrated under reduced pressure to get the crude which was then purified by column chromatography 100-200 mesh) eluted with 5-10% ethyl acetate in hexane as eluent to get compound 6-(4-fluorophenyl)-3-methylpyrazolo[5,1-b][1,3]oxazole (0.1 g, yield 43%).

reactant | 1-{[3-(4-fluorophenyl)-1H-pyrazol-5-yl]oxy}acetone | 1.0 mmol, 0.25 g | FC1=CC=C(C=C1)C1=NNC(=C1)OCC(=O)C | C12H11FN2O2
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | p-TsOH | 25 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 6-(4-fluorophenyl)-3-methylpyrazolo[5,1-b][1,3]oxazole | 0.1 g, yield 43% | FC1=CC=C(C=C1)C1=NN2C(OC=C2C)=C1 | C12H9FN2O
